US09034850B2
Step B. {(R)-2-[3-(2,6-difluoro-benzyl)-5-nitro-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester
1-(2,6-difluoro-benzyl)-5-nitro-1H-pyrimidine-2,4-dione (82 mg, 0.29 mmol), ((R)-2-hydroxy-1-phenyl-ethyl)-carbamic acid tert-butyl ester (69 mg, 0.29 mmol), and triphenylphosphine (114 mg, 0.44 mmol) were dissolved in anhydrous tetrahydrofuran (2 mL). To this solution was added diethyl azodicarboxylate (200 μl, 0.44 mmol), followed by stirring at room temperature for 4 hrs. The solution was concentrated, after which the residue was purified using silica gel chromatography (eluent: hexane/ethyl acetate/dichloromethane, 3/1/1) and dried in a vacuum to afford 67 mg of the compound as a colorless oil (yield 67%). 1H NMR (300 MHz, CDCl3) δ 1.30 (9H, s), 3.40 (1H, d), 4.50 (1H, m), 5.08-5.27 (4H, m), 7.02 (2H, t), 7.26-7.47 (6H, m), 8.78 (1H, s)

reactant | 1-(2,6-difluoro-benzyl)-5-nitro-1H-pyrimidine-2,4-dione | 0.29 mmol, 82 mg | FC1=C(CN2C(NC(C(=C2)[N+](=O)[O-])=O)=O)C(=CC=C1)F | C11H7F2N3O4
reactant | ((R)-2-hydroxy-1-phenyl-ethyl)-carbamic acid tert-butyl ester | 0.29 mmol, 69 mg | C(C)(C)(C)OC(N[C@@H](CO)C1=CC=CC=C1)=O | C13H19NO3
reactant | triphenylphosphine | 0.44 mmol, 114 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.44 mmol, 200 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | {(R)-2-[3-(2,6-difluoro-benzyl)-5-nitro-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 67 mg, yield 67% | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)[N+](=O)[O-])CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C24H24F2N4O6
